US07585875B2
A solution of 2-hydroxy-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one (0.6 g, 1 equivalent), silver oxide (5 g, 8 equivalents), and methyl iodide (2.5 mL, 15 equivalents) in 2 mL of THF was stirred in a sealed tube at room temperature for 26 hours. The mixture was filtered to remove precipitated solids. The filtrate was worked up with ethyl acetate and saturated NaHCO3. The crude oil obtained was purified by silica gel flash column chromatography to give 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-methoxypropan-1-one as an oil. Compound 1069.

reactant | 2-hydroxy-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one | 0.6 g, 1 equivalent | OC(C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C | C13H16N2O2
reactant | methyl iodide | 2.5 mL, 15 equivalents | CI | CH3I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | silver oxide | 5 g, 8 equivalents | [Ag]=O
product | 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-methoxypropan-1-one | C(C)(C)C1=NN2C(C=CC=C2)=C1C(C(C)OC)=O | C14H18N2O2
